US07632838B2
Sulfonylation of 1-(4-fluoro-2-(methylsulfonyl)phenyl)piperazine (316.6 mg, 1.23 mmol) with naphthalene-2-sulfonyl chloride (278 mg, 1.54 mmol) was carried out according to a similar procedure described for example 3A using anhydrous dichloromethane (5 mL) as solvent and diisopropylethylamine (0.256 mL, 1.47 mmol) as base. 1-[4-fluoro-2-(methylsulfonyl)phenyl]-4-(2-naphthylsulfonyl)piperazine was obtained in 61.8% yield (340 mg) as white solid.

reactant | 1-(4-fluoro-2-(methylsulfonyl)phenyl)piperazine | 1.23 mmol, 316.6 mg | FC1=CC(=C(C=C1)N1CCNCC1)S(=O)(=O)C | C11H15FN2O2S
reactant | naphthalene-2-sulfonyl chloride | 1.54 mmol, 278 mg | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)Cl | C10H7ClO2S
reactant | diisopropylethylamine | 1.47 mmol, 0.256 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 1-[4-fluoro-2-(methylsulfonyl)phenyl]-4-(2-naphthylsulfonyl)piperazine | 61.8% yield | FC1=CC(=C(C=C1)N1CCN(CC1)S(=O)(=O)C1=CC2=CC=CC=C2C=C1)S(=O)(=O)C | C21H21FN2O4S2
